US05468766
1-Ethyl-3-methyl-1,5,6,7-tetrahydro-4H-indazol-4-one
Prepared analogously to Example 1 starting from 2-acetyl-cyclohexane-1,3-dione and ethylhydrazine.

reactant | 2-acetyl-cyclohexane-1,3-dione | C(C)(=O)C1C(CCCC1=O)=O | C8H10O3
reactant | ethylhydrazine | C(C)NN | C2H8N2
product | 1-Ethyl-3-methyl-1,5,6,7-tetrahydro-4H-indazol-4-one | C(C)N1N=C(C=2C(CCCC12)=O)C | C10H14N2O
